US09102688B2
7-Ethylquinoline (Intermediate 57)
In a similar fashion using route 10 general procedure 20, 3-ethylaniline (1 g, 8.25 mmol), glycerol (2.35 g, 25.6 mmol), 3-nitro benzenesulfonic acid sodium salt (2.42 g, 10.7 mmol), H2SO4:H2O (3.5 ml:2.5 ml) gave the title compound (1.21 g, 93%) which was used in the next step without purification. The structure was confirmed by 1H NMR.

reactant | 3-ethylaniline | 8.25 mmol, 1 g | C(C)C=1C=C(N)C=CC1 | C8H11N
reactant | glycerol | 25.6 mmol, 2.35 g | OCC(O)CO | C3H8O3
reactant | 3-nitro benzenesulfonic acid sodium salt | 10.7 mmol, 2.42 g | [Na+].[N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)[O-]
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
solvent | H2O | 3.5 ml | O | H2O
product | 7-Ethylquinoline | 1.21 g, 93% | C(C)C1=CC=C2C=CC=NC2=C1 | C11H11N
